US05495026
[Synthesis of 2,8-dimethyl-2-hydroxymethylchroman]
A pressure-proof reaction vessel equipped with a stirrer was charged with 16.2 g (0.15 mole) of o-cresol, 54.1 g (0.75 mole) of 2-methyl-2-propen-1 -ol, 6.2 g (0.165 mole) of 80% paraformaldehyde, 1.9 g (0.01 5 mole) of dibutylamine and 4.5 g (0.075 mole) of acetic acid, and the mixture was reacted, with stirring, at 170° C. for 6 hours.

reactant | o-cresol | 0.15 mole, 16.2 g | C1(=CC=CC=C1O)C | C7H8O
reactant | 2-methyl-2-propen-1 -ol | 0.75 mole, 54.1 g | CC(CO)=C | C4H8O
reactant | paraformaldehyde | 0.165 mole, 6.2 g | C=O | CH2O
reactant | dibutylamine | 5 mole, 1.9 g | C(CCC)NCCCC | C8H19N
reactant | acetic acid | 0.075 mole, 4.5 g | C(C)(=O)O | C2H4O2
product | 2,8-dimethyl-2-hydroxymethylchroman | CC1(OC2=C(C=CC=C2CC1)C)CO | C12H16O2
